US06316162B1
Maleic anhydride (1 mol.), t-butyl bicyclo[2,2,2]oct-5-ene-2-carboxylate (0.5 mol.), and 3-hydroxy propyl 5-norbornene-2-carboxylate (0.5 mol.) were dissolved in 200 gms of tetrahydrofuran (THF), 6 gms of 2,2′-azobisisobutyronitrile (AIBN) was added thereto, and then the resultant solution was reacted at a temperature of 67° C. in a nitrogen atmosphere for 10 hours. After a high molecule weight was achieved by the reaction, the resultant product was precipitated in an ethyl ether solvent. The gathered precipitate was dried, and 150 gms of the desirable poly(maleic anhydride/t-butyl bicyclo[2,2,2]oct-5-ene-2-carboxylate/3-hydroxypropyl 5-norbornene-2-carboxylate) polymer was obtained at a yield of about 50%. NMR spectra of the polymer is illustrated in FIG. 5.

reactant | Maleic anhydride | 1 mol | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | t-butyl bicyclo[2,2,2]oct-5-ene-2-carboxylate | 0.5 mol | C12C(CC(C=C1)CC2)C(=O)OC(C)(C)C | C13H20O2
reactant | 2,2′-azobisisobutyronitrile | 6 gms | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | tetrahydrofuran | 200 gms | O1CCCC1 | C4H8O
product | maleic anhydride t-butyl bicyclo[2,2,2]oct-5-ene-2-carboxylate 3-hydroxypropyl 5-norbornene-2-carboxylate | yield of about 50% | C1(\C=C/C(=O)O1)=O.C12C(CC(C=C1)CC2)C(=O)OC(C)(C)C.C12C(CC(C=C1)C2)C(=O)OCCCO | InChI=1S/C13H20O2.C11H16O3.C4H2O3/c1-13(2,3)15-12(14)11-8-9-4-6-10(11)7-5-9;12-4-1-5-14-11(13)10-7-8-2-3-9(10)6-8;5-3-1-2-4(6)7-3/h4,6,9-11H,5,7-8H2,1-3H3;2-3,8-10,12H,1,4-7H2;1-2H
